US05440044
2-[(2RS)-2-Hydroxy-2-(3-carboxyphenyl)-ethyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine
Under the conditions of example 2, 30 mg of 2-[(2RS)-2-hydroxy-2-(3-methoxycarbonylphenyl)-ethyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine in 2 ml of methanol is saponified with 1 ml of 1 n sodium hydroxide solution and worked up. 18 mg of the title compound is obtained as oil.

reactant | 2-[(2RS)-2-hydroxy-2-(3-methoxycarbonylphenyl)-ethyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 30 mg | OC(CC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)C1=CC(=CC=C1)C(=O)OC | C26H35NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 2-[(2RS)-2-Hydroxy-2-(3-carboxyphenyl)-ethyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 18 mg | OC(CC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O)C1=CC(=CC=C1)C(=O)O | C25H33NO4
